US07476758B2
To a mixture of ethyl (αS)-α-amino-4′-ethoxymethyl-2′,6′-dimethoxy(1,1′-biphenyl)-4-propionate p-toluenesulfonate (29.0 g), sodium hydrogen carbonate (15.2 g), water (290 ml) and ethyl acetate (290 ml) was added dropwise 2,6-difluorobenzoyl chloride (9.6 g) at 15° C. or below and the mixture was stirred for 30 minutes at the same temperature. The ethyl acetate layer was washed with saturated aqueous NaCl solution and dried over magnesium sulfate. The solvent was removed in vacuo. The residue was recrystallized from isopropanol-water to yield ethyl (αS)-α-[(2,6-difluorobenzoyl)amino]-4′-ethoxymethyl-2′,6′-dimethoxy(1,1′-biphenyl)-4-propionate (26.4 g).

reactant | ethyl (αS)-α-amino-4′-ethoxymethyl-2′,6′-dimethoxy(1,1′-biphenyl)-4-propionate p-toluenesulfonate | 29.0 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N[C@H](C(=O)OCC)CC1=CC=C(C=C1)C1=C(C=C(C=C1OC)COCC)OC
reactant | sodium hydrogen carbonate | 15.2 g | C(O)([O-])=O.[Na+]
reactant | water | 290 ml | O | H2O
reactant | 2,6-difluorobenzoyl chloride | 9.6 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | ethyl acetate | 290 ml | C(C)(=O)OCC | C4H8O2
product | ethyl (αS)-α-[(2,6-difluorobenzoyl)amino]-4′-ethoxymethyl-2′,6′-dimethoxy(1,1′-biphenyl)-4-propionate | 26.4 g | FC1=C(C(=O)N[C@H](C(=O)OCC)CC2=CC=C(C=C2)C2=C(C=C(C=C2OC)COCC)OC)C(=CC=C1)F | C29H31F2NO6
